US08258169B2
A solution of 1-(2,4-dichlorophenyl)-propan-2-one (3.46 g, 16.7 mmole) in methanol (40 ml) was treated with hydroxylamine hydrochloride (1.40 g, 20.6 mmol) followed by pyridine (1.7 ml, 20.6 mmol). The resulting mixture was stirred at ambient temperature over night for 16 hours. The reaction mixture was poured onto water (200 ml). The solid product was collected by filtration, washed with water and dried (40° C., 100 mbar). 3.63 g (100% of theory) of 1-(2,4-dichlorophenyl)-propan-2-one oxime was obtained in form of a white solid (m.p. 120-124° C.).

reactant | 1-(2,4-dichlorophenyl)-propan-2-one | 16.7 mmole, 3.46 g | ClC1=C(C=CC(=C1)Cl)CC(C)=O | C9H8Cl2O
reactant | hydroxylamine hydrochloride | 20.6 mmol, 1.40 g | Cl.NO
reactant | pyridine | 20.6 mmol, 1.7 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 40 ml | CO | CH4O
product | 1-(2,4-dichlorophenyl)-propan-2-one oxime | 3.63 g, 100% | ClC1=C(C=CC(=C1)Cl)CC(C)=NO | C9H9Cl2NO
